US05691330
The reaction and procedure were conducted in a similar manner as in Example 24 using 2.5 g of 6-acetyl-3-(2-bromoethyl)-2-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine and 2.0 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 2.2 g of 6-acetyl-2-ethyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine as an oil, m.p. 191°-201° C. as oxalate 1/2hydrate thereof.

reactant | 6-acetyl-3-(2-bromoethyl)-2-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 2.5 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CC)CCBr | C13H18BrNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 2.0 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | 6-acetyl-2-ethyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 2.2 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CC)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C25H30FN3O2S
